US07846925B2
Step II: 1,3-Dihydroisobenzofuran-5-carbaldehyde
(1,3-Dihydro-isobenzofuran-5-yl)-methanol (440 mg, 2.9 mmol) was dissolved in 20 ml of DCM. 1,1,1-Triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin reagent) (1.3 g, 3.2 mmol) was added and the reaction was stirred at r.t. for 4 h. The reaction mixture was diluted with ether and extracted 2× with NaOH 1N, 2× with H2O and dried over MgSO4. The crude product was sufficiently pure and used without any further purification.

reactant | (1,3-Dihydro-isobenzofuran-5-yl)-methanol | 2.9 mmol, 440 mg | C1OCC2=CC(=CC=C12)CO | C9H10O2
reactant | 1,1,1-Triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 3.2 mmol, 1.3 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1,3-Dihydroisobenzofuran-5-carbaldehyde | C1OCC2=CC(=CC=C12)C=O | C9H8O2
